US06498174B1
Intermediate 1E: 5ethyl-2-phenyl-1,3-oxazole4-carboxylic acid
Intermediate 1E was prepared (as described below for the preparation of intermediate 2B) from 4.08 g of benzamide, 5.0 g of ethyl 3-bromo-2-oxo-pentanoate, and 10 mL of toluene. Solids were collected and washed with cold water after cooling of the NaOH solution. Heating these solids with citric acid as described followed by cooling and isolation of the resulting solids gave 410 mg (9% yield) of the title compound; 1H NMR (CDCl3, 300 MHz) δ8.06-8.03 (m, 2H), 7.49-7.43 (m, 3H), 3.14 (q, 2H, J=8.0), 1.34 (t, 3H, J=8.0); low resolution MS (ES+)m/e 217.8 (MH+).

reactant | benzamide | 4.08 g | C(C1=CC=CC=C1)(=O)N | C7H7NO
reactant | ethyl 3-bromo-2-oxo-pentanoate | 5.0 g | BrC(C(C(=O)OCC)=O)CC | C7H11BrO3
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
product | 5ethyl-2-phenyl-1,3-oxazole4-carboxylic acid | 410 mg, 9% yield | C(C)C1=C(N=C(O1)C1=CC=CC=C1)C(=O)O | C12H11NO3
